US04882344
2-Chloro-5-chloromethylpyridine (3.24 g) and 2-nitraminopyridine (2.78 g) were dissolved in anhydrous ethanol (50 ml), and triethylamine (4.04 g) was added to the solution. The mixture was stirred at room temperature for a while. Then, it was heated under reflux conditions for 8 hours. The reaction mixture was cooled to room temperature, and poured into ice water. The precipitated crystals were collected by filtration, and recrystallized from ethanol to give pale yellow 1-(2-chloro-5-pyridylmethyl)-2-nitroimino-1,2-dihydropyridine (2.3 g) as the desired compound. mp. 209-212° C.

reactant | 2-Chloro-5-chloromethylpyridine | 3.24 g | ClC1=NC=C(C=C1)CCl | C6H5Cl2N
reactant | 2-nitraminopyridine | 2.78 g | N([N+](=O)[O-])C1=NC=CC=C1 | C5H5N3O2
reactant | triethylamine | 4.04 g | C(C)N(CC)CC | C6H15N
solvent | ethanol | 50 ml | C(C)O | C2H6O
product | 1-(2-chloro-5-pyridylmethyl)-2-nitroimino-1,2-dihydropyridine | 2.3 g | ClC1=NC=C(C=C1)CN1C(C=CC=C1)=N[N+](=O)[O-] | C11H9ClN4O2
